US05708018
5,6-Ethylenedioxy-2-(di-n-propylamino)indan (B-1, Chart B).
5,6-Dihydroxy-2-(di-n-propylamino)indan hydrobromide (200 mg, 0.6 mmol) was reacted with 1,2-dibromoethane (0.05 mL, 0.66 mmol) under the same reaction conditions as Example 4. The crude material was chromatographed (200 g silica gel) eluting with methylene chloride/methanol (9:1) to yield an oil. The oil was converted into the HCl salt and recrystallized using methanol/ethyl acetate/ether: mp 210°-215° C.

reactant | 5,6-Dihydroxy-2-(di-n-propylamino)indan hydrobromide | 0.6 mmol, 200 mg | Br.OC=1C=C2CC(CC2=CC1O)N(CCC)CCC
reactant | 1,2-dibromoethane | 0.66 mmol, 0.05 mL | BrCCBr | C2H4Br2
reactant | HCl | Cl | ClH
product | 5,6-Ethylenedioxy-2-(di-n-propylamino)indan | C1OC=2C=C3CC(CC3=CC2OC1)N(CCC)CCC | C17H25NO2
